US08563541B2
Product (Example 186): 2-(2,6-Dichlorophenyl)-2,8-dihydropyrazolo[3,4-d]dipyrido[2,3-b:3′,4′-f]azepine
(2,6-Dichlorophenyl)hydrazine hydrochloride (168 mg, 0.788 mmol) was added to a solution of 6-[(dimethylamino)methylene]-6,11-dihydro-5H-dipyrido[2,3-b:3′,4′-f]azepin-5-one (105 mg, 0.394 mmol, Intermediate E-1) in ethanol (4 mL) and stirred at room temperature. After 30 minutes, the mixture was heated to 60° C. overnight. The reaction was then cooled to room temperature and the major product from the reaction mixture was isolated using preparative LC/MS to provide the desired product as a white powder. 1H NMR (DMSO-d6) δ 8.77 (bs, 1H), 8.45 (bs, 1H), 8.40 (bs, 1H), 8.04 (m, 2H), 7.94 (d, 1H), 7.75 (m, 2H), 7.62 (m, 1H), 6.95 (m, 1H), 6.87 (m, 1H). LC/MS: 380 (M+H)+.

reactant | (2,6-Dichlorophenyl)hydrazine hydrochloride | 0.788 mmol, 168 mg | Cl.ClC1=C(C(=CC=C1)Cl)NN
reactant | 6-[(dimethylamino)methylene]-6,11-dihydro-5H-dipyrido[2,3-b:3′,4′-f]azepin-5-one | 0.394 mmol, 105 mg | CN(C)C=C1C(C2=C(NC3=C1C=NC=C3)N=CC=C2)=O | C15H14N4O
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 2-(2,6-Dichlorophenyl)-2,8-dihydropyrazolo[3,4-d]dipyrido[2,3-b:3′,4′-f]azepine | ClC1=C(C(=CC=C1)Cl)N1N=C2C3=C(NC4=C(C2=C1)C=NC=C4)N=CC=C3 | C19H11Cl2N5
